US05468865
A solution of 0.8 g. of (R)-N-(3,4-dimethoxybenzyl)-N-[2-(3-chlorophenyl)-2-hydroxyeth-1-yl]-1-(3,4-dimethoxyphenyl)-prop-2-ylamine in 10 mL of toluene is added to a slurry of 64 mg. of sodium hydride (60% oil slurry) in 5 mL of toluene at room temperature. The reaction mixture is stirred for one hour, 0.11 mL of triethylamine is added, and the reaction mixture is stirred for an additional 30 minutes. A 1.93M solution of phosgene (0.9 mL) is added and the reaction mixture is stirred for one hour and quenched with 10% hydrochloric acid. Additional toluene is added and the mixture is sequentially washed with dilute hydrochloric acid, 3N sodium hydroxide, and brine, after which it is dried over magnesium sulfate and concentrated to yield (R,R)-3-[1-(3,4-dimethoxyphenyl)prop-2-yl]-5-(3-chlorophenyl)oxazolidin-2-one which is further purified by recrystallization from 1:7 ethanol:heptane to yield white crystals. Gas chromatography indicates the chemical purity is 99.9% and HPLC indicates the optical purity is 99.6%. 1H NMR (250 MHz, CDCl3) d 1.26 (d, 3H, J=6.7 Hz), 2.65-2.85 (m, 2H), 3.25 (m, 1H), 3.8-3.9 (m, 1H), 3.82 (s, 3H), 3.86 (s, 3H), 4.34 (m, 1H), 5.35 (m, 1H), 6.6-7.4 (m, 7H).

reactant | (R)-N-(3,4-dimethoxybenzyl)-N-[2-(3-chlorophenyl)-2-hydroxyeth-1-yl]-1-(3,4-dimethoxyphenyl)-prop-2-ylamine | COC=1C=C(CN(CC(O)C2=CC(=CC=C2)Cl)[C@@H](CC2=CC(=C(C=C2)OC)OC)C)C=CC1OC | C28H34ClNO5
reactant | sodium hydride | [H-].[Na+]
reactant | triethylamine | 0.11 mL | C(C)N(CC)CC | C6H15N
reactant | phosgene | 0.9 mL | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | (R,R)-3-[1-(3,4-dimethoxyphenyl)prop-2-yl]-5-(3-chlorophenyl)oxazolidin-2-one | COC=1C=C(C=CC1OC)C[C@@H](C)N1C(O[C@@H](C1)C1=CC(=CC=C1)Cl)=O | C20H22ClNO4
